US05965548
preparation of 17-(2-amino-4-thiazolyl)-androsta-5,16-dien-3one
Dissolve oxalyl chloride (8.86 mL of a 2.0M solution in methylene chloride, 17.73 mmol) in methylene chloride (65 mL) under an atmosphere of nitrogen and cool the solution to -55° C. Add dimethylsulfoxide (1.47 mL, 20.68 mmol) dropwise and stir for 3 minutes. Then add a solution of (3β)-17-(2-amino-4-thiazolyl)-androsta-5,16-dien-3-ol.HBr.CH3CH2OH (2.94 g, 5.91 mmol) prepared in either example 1a or 1b, dissolved in methylene chloride (20 mL) and dimethylsulfoxide (10 mL) to the reaction slowly over 4 minutes and stir for 30 minutes. Then add triethylamine (5.77 mL, 41.36 mmol) and after 5 minutes of stirring allow the reaction to warm to room temperature. Dilute the reaction with methylene chloride (180 mL) and wash with dilute sodium bicarbonate (4×225 mL) and brine/saturated sodium bicarbonate, 3:1 (200 mL). Dry the organic phase over anhydrous magnesium sulfate, filter and concentrate under vacuum to provide a brown foam. Purify by flash chromatography (ethyl acetate/hexane, silica gel) followed crystallization from ethyl acetate/hexane to provide the title compound (135 mg) as a light orange solid after drying under high vacuum at 56° C. for 2 hours, (Rf =0.38, 50% ethyl acetate/hexane, SiO2); 1H NMR (DMSO-d6) δ6.85 (broad singlet, 2H), 6.45 (s, 1H), 6.06 (broad triplet, 1H, J=1.9, 3.0 Hz), 5.35-5.31 (m, 1H), 3.43 (dq, 1H, J=2.6, 15.9 Hz), 2.67 (dd, 1H, J=1.8, 16.0 Hz), 1.21 (s, 3H), 0.97 (s, 3H); MS (CI/CH4) m/z (rel. intensity) 369 (MH+, 100), 368 (23); HRMS C22H29N2OS (MH+) calcd 369.2001, observed 369.1989.

reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (3β)-17-(2-amino-4-thiazolyl)-androsta-5,16-dien-3-ol | NC=1SC=C(N1)C=1[C@]2(C)[C@@H](CC1)[C@@H]1CC=C3C[C@H](CC[C@]3(C)[C@H]1CC2)O | C22H30N2OS
reactant | HBr | Br | BrH
reactant | CH3CH2OH | 5.91 mmol, 2.94 g | CCO | C2H6O
reactant | triethylamine | 41.36 mmol, 5.77 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 65 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 180 mL | C(Cl)Cl | CH2Cl2
solvent | dimethylsulfoxide | 10 mL | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 20.68 mmol, 1.47 mL | CS(=O)C | C2H6OS
product | 17-(2-amino-4-thiazolyl)-androsta-5,16-dien-3one | 135 mg | NC=1SC=C(N1)C=1[C@]2(C)[C@@H](CC1)[C@@H]1CC=C3CC(CC[C@]3(C)[C@H]1CC2)=O | C22H28N2OS
